US08202885B2
276 mg of rac-(1R*,2R*,4R*)-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid tert.-butyl ester were dissolved in EtOH (1.7 mL) and treated with LiOH.H2O (181 mg), H2O (0.55 mL) and MeOH (1.65 mL). The reaction mixture was stirred at rt for 4 days and concentrated in vacuo. The resulting aq. residue was partitioned between water and Et2O. The aq. layer was separated, acidified with 25%-HCl, and extracted with DCM. The organic phase was dried over anh. Na2SO4 and concentrated to give 205 mg of rac-(1R*,2R*,4R*)-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid as a white solid.

reactant | rac-(1R*,2R*,4R*)-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid tert.-butyl ester | 276 mg | C(C)(C)(C)OC(CC1(C2C=C(C(C1)CC2)C=2SC=CC2)O)=O | C18H24O3S
reactant | LiOH.H2O | 181 mg | O[Li].O
reactant | H2O | 0.55 mL | O | H2O
reactant | MeOH | 1.65 mL | CO | CH4O
solvent | EtOH | 1.7 mL | CCO | C2H6O
product | rac-(1R*,2R*,4R*)-(2-hydroxy-5-thiophen-2-yl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid | 205 mg | OC1(C2C=C(C(C1)CC2)C=2SC=CC2)CC(=O)O | C14H16O3S
